US07153855B2
To a solution of (2E)-1-[7-(cyclopentylamino)-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-3-(dimethylamino)-2-propen-1-one (5.97 g, 14.7 mmol) in dimethylformamide (80 mL) was added N-cyclopentyl guanidine hydrochloride (4.33 g, 26.5 mmol; Prepared by modification of a procedure from Bannard, R. A. B. et al., Can. J. Chem. 1958, 36, 1541–1549), followed by potassium carbonate (2.03 g, 14.7 mmol). The resulting solution was heated at reflux for 6 hours. Upon cooling to room temperature, water was added. The mixture was extracted with ethyl acetate. The ethyl acetate phase was washed with brine, dried (magnesium sulfate), filtered and concentrated in vacuo. The resulting residue was purified by flash chromatography (4:6 ethyl acetate:hexane) to give N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-methoxyphenyl)-pyrazolo[1,5-a]pyridin-7-amine (5.02 g, 73%) as a yellow solid. 1H NMR (CDCl3): δ 7.95 (d, 1H), 7.72 (d, 1H), 7.54 (dd, 2H), 7.25 (t, 1H), 6.94 (dd, 2H), 6.28 (d, 1H), 6.00–5.97 (m, 2H), 5.03 (d, 1H), 4.33–4.31 (m, 1H), 3.96 (m, 1H), 3.83 (s, 3H), 2.10–2.01 (m, 4H), 1.77–1.50 (m, 12H); MS m/z 469 (M+1); Anal. Calcd for C28H32N6O: C, 71.77; H, 6.88; N17.93. Found: C, 71.41; H, 7.02; N, 17.89.

reactant | (2E)-1-[7-(cyclopentylamino)-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-3-(dimethylamino)-2-propen-1-one | 14.7 mmol, 5.97 g | C1(CCCC1)NC1=CC=CC=2N1N=C(C2C(\C=C\N(C)C)=O)C2=CC=C(C=C2)OC | C24H28N4O2
reactant | N-cyclopentyl guanidine hydrochloride | Cl.C1(CCCC1)NC(=N)N
reactant | potassium carbonate | 14.7 mmol, 2.03 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
product | N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-methoxyphenyl)-pyrazolo[1,5-a]pyridin-7-amine | 5.02 g, 73% | C1(CCCC1)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)OC | C28H32N6O
